US08377930B2
To a solution of methyl 2-(benzo[b]thiophen-2-yl)-2-methoxyacetate (0.174 g, 0.74 mmol) in absolute ethanol (3 mL) was added hydrazine hydrate (0.14 mL, 2.87 mmol) and the mixture was heated at 50° C. for 20 hours. After cooling to room temperature, the solution was concentrated in vacuo. The residue was dissolved in EtOAc and washed with water and brine, dried over Na2SO4 and concentrated in vacuo to give 2-(benzo[b]thiophen-2-yl)-2-methoxyacetohydrazide as a colorless oil (0.182 g, quantitative yield).

reactant | methyl 2-(benzo[b]thiophen-2-yl)-2-methoxyacetate | 0.74 mmol, 0.174 g | S1C2=C(C=C1C(C(=O)OC)OC)C=CC=C2 | C12H12O3S
reactant | hydrazine hydrate | 2.87 mmol, 0.14 mL | O.NN
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-(benzo[b]thiophen-2-yl)-2-methoxyacetohydrazide | 0.182 g, quantitative yield | S1C2=C(C=C1C(C(=O)NN)OC)C=CC=C2 | C11H12N2O2S
